US06294558B1
2-Fluoro-4-(1,3-thiazol-4-yl)phenol (step 2)
To a stirred solution of phosphorus pentasulfide (8.6 g, 19.3 mmol) in dioxane (53 ml) was added formamide (5.2 g, 115.5 mmol), and the mixture was heated at reflux temperature for 2 hours. The mixture was cooled down to room temperature, and the solution was decanted away from solids. To a stirred solution of 2-bromo-1-(3-fluoro-4-hydroxyphenyl)-1-ethanone (3.02 g, 12.98 mmol) in dioxane (50 ml) was added the thioformamide solution, and the mixture was heated at reflux temperature for 6 hours. The mixture was cooled down to room temperature, and made basic by addition of 0.5M NaOH aqueous solution. The whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:3) to give title compound (2.11 g, 83% yield).

reactant | phosphorus pentasulfide | 19.3 mmol, 8.6 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | formamide | 115.5 mmol, 5.2 g | C(=O)N | CH3NO
reactant | 2-bromo-1-(3-fluoro-4-hydroxyphenyl)-1-ethanone | 12.98 mmol, 3.02 g | BrCC(=O)C1=CC(=C(C=C1)O)F | C8H6BrFO2
reactant | thioformamide | C(=S)N | CH3NS
reactant | NaOH | 0.5M | [OH-].[Na+]
solvent | dioxane | 53 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-Fluoro-4-(1,3-thiazol-4-yl)phenol | 2.11 g, 83% yield | FC1=C(C=CC(=C1)C=1N=CSC1)O | C9H6FNOS
